datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[NH]C7=CC=CC=C7 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C([H])[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CCCCCC)[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C1=CC=CC=C1)CCCCCC>>CN([C:20](=[O:10])OC1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]CC.[Cl-]>>[Cl-].C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]CC 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])OCC)CC)CC>>C(C(O[C:20](=[O:10])OCC)CC)([O-:21])CC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C)([O-:10])[Cl:21])CC)C1=CC=CC=C1>>CCC1C(C(O[C:20](=[O:10])N1C)CC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[S]C([H])C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[OH:10]C(CCC)/C(C)=C([C:20](C)=[OH+:21])/C>>[OH:21][C:20]1(C)[OH+:10]C(CCC)C(C)=C1C 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(CC)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"CC[O:10][H].[H][O+:21]=[C:20]([S]C)[S][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([S]C)[S][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(C)C([H])[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C(C)C([H])[S]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]CC)([NH]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([NH]CC)[O]CC 21=20;20,10=10"
"CCC1C(O[C:20](=[O:10])N1[H])CC.[O-:21][H]>>CCC1C(O[C:20](N1[H])([O-:10])[O:21][H])CC 21=20;20,10=10"
"CCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[O-:21][H]>>CCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(CC)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H][O:10]C(C)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C(O)C(C)C(C)[O:10]1>>[O-:10]C(C)C(C)C(O)C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)CC>>CN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])CC 21=20;20,10=10"
"CC1C(O[C:20](=[O:10])N1CC)[H].[O-:21][H]>>CC1C(O[C:20](N1CC)([O-:10])[O:21][H])[H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"[O:20]=[C:21](OCCCCCC)OCC.CCCCCC[O:10][Na]>>CCCCCC[O+:10]([Na])[C:21]([O-:20])(OCCCCCC)OCC 10=21;21,20=20"
